US04886805
A solution of 18 g of N-methyl-2-chloroethylamine hydrochloride, 20 g of 3-mercapto-1,2,4-triazolo(4,3-a)pyridine and 40 ml of triethylamine in 150 ml of ethanol is heated under reflux for 2 hours. After evaporation, the residue is taken up in water, 0.1N sodium hydroxide is added and extraction is carried out with chloroform. The chloroform phase is washed with water, dried over sodium sulfate and evaporated to dryness. The residue obtained is dissolved in an ethyl ether/acetone mixture and the solution is acidified by the addition of a solution of ethyl ether saturated with hydrogen chloride gas. The precipitate formed is filtered off, washed with ether and dried to give 12.6 g of 3-[2-(methylamino)ethylmercapto]-1,2,4-triazolo(4,3-a)pyridine hydrochloride in the form of crystals melting at 195°-7° C.

reactant | N-methyl-2-chloroethylamine hydrochloride | 18 g | Cl.CNCCCl
reactant | 3-mercapto-1,2,4-triazolo(4,3-a)pyridine | 20 g | SC1=NN=C2N1C=CC=C2 | C6H5N3S
reactant | triethylamine | 40 ml | C(C)N(CC)CC | C6H15N
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | ethyl ether acetone | C(C)OCC.CC(=O)C
solvent | ethyl ether | C(C)OCC | C4H10O
product | 3-[2-(methylamino)ethylmercapto]-1,2,4-triazolo(4,3-a)pyridine hydrochloride | 12.6 g | Cl.CNCCSC1=NN=C2N1C=CC=C2 | InChI=1S/C9H12N4S.ClH/c1-10-5-7-14-9-12-11-8-4-2-3-6-13(8)9;/h2-4,6,10H,5,7H2,1H3;1H
